US07569578B2
3-(1-(3-(1H-Benzo[d]imidazol-2-yl)-4-(7-methyl-3a,7a-dihydro-1H-indazol-5-yl)butanoyl)piperidin-4-yl)-3,4-dihydroquinazolin-2(1H)-one
A solution of N-(2-aminophenyl)-2-((7-methyl-3a,7a-dihydro-1H-indazol-5-yl)methyl)-4-oxo-4-(4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidin-1-yl)butanamide in 1,2-dichloroethane (8 mL) and acetic acid (1 mL) was heated under nitrogen at 65° C. for 5 h. The solvent was evaporated and the residue taken up in ethyl acetate (20 mL). The ethyl acetate layer was washed with 1M sodium hydroxide (5 mL) and water (2×5 mL), dried, filtered and concentrated. The final product was obtained by flash chromatography using 0% to 10% 2 M ammonia in methanol/methylene chloride. MS(ESI)[M+H]+=550.

reactant | N-(2-aminophenyl)-2-((7-methyl-3a,7a-dihydro-1H-indazol-5-yl)methyl)-4-oxo-4-(4-(2-oxo-1,2-dihydroquinazolin-3(4H)-yl)piperidin-1-yl)butanamide | NC1=C(C=CC=C1)NC(C(CC(N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)=O)CC1=CC2C=NNC2C(=C1)C)=O | C32H37N7O3
solvent | 1,2-dichloroethane | 8 mL | ClCCCl | C2H4Cl2
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | 3-(1-(3-(1H-Benzo[d]imidazol-2-yl)-4-(7-methyl-3a,7a-dihydro-1H-indazol-5-yl)butanoyl)piperidin-4-yl)-3,4-dihydroquinazolin-2(1H)-one | N1C(=NC2=C1C=CC=C2)C(CC(=O)N2CCC(CC2)N2C(NC1=CC=CC=C1C2)=O)CC2=CC1C=NNC1C(=C2)C | C32H35N7O2
